US06534522B2
D) 4-Benzyl-2-(hydroxymethyl)pyridine
To a solution of methyl 4-benzyl-picolinate (5.80 g, 26.0 mmol) in EtOH (100 mL)/THF (66 mL) was added a mixture of NaBH4 (1.90 g, 51.0 mmol) and LiCl (2.16 g, 51.0 mmol). The resulting mixture was stirred at 25° C. for 4 h then concentrated under reduced pressure, diluted with brine (200 mL) and extracted with EtOAc (2×200 mL). The collected organic phase was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The crude compound was purified by flash chromatography on silica gel using EtOAc/n-hexane as eluant to afford the title compound as a pale yellow oil (4.4 g, 80%). 1H NMR (CDCl3) δ3.8 (bs, 1H), 3.97 (s, 2H), 4.70 (s, 2H), 7.03 (d, J=4.5 Hz, 1H), 7.06 (s, 1H), 7.17 (d, J=6.9 Hz, 2H), 7.20-7.40 (m, 3H), 8.43 (d, J=4.8 Hz, 1H).

reactant | methyl 4-benzyl-picolinate | 26.0 mmol, 5.80 g | C(C1=CC=CC=C1)C1=CC(=NC=C1)C(=O)OC | C14H13NO2
reactant | THF | 66 mL | C1CCOC1 | C4H8O
reactant | NaBH4 | 51.0 mmol, 1.90 g | [BH4-].[Na+]
reactant | LiCl | 51.0 mmol, 2.16 g | [Li+].[Cl-]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 4-Benzyl-2-(hydroxymethyl)pyridine | 4.4 g, 80% | C(C1=CC=CC=C1)C1=CC(=NC=C1)CO | C13H13NO
